US04864032
2-Bromobenzotrifluoride (4.5 g, 20 mmol) and magnesium turnings (0.54 g, 22 mmol) were refluxed under a nitrogen atmosphere in 100 ml THF until the magnesium had dissolved. The resulting solution was cooled to -75° C. and added to 4.6 g (20 mmol) di-t-butyl azodicarboxylate in 100 ml THF at -75° C. The solution was warmed to -40° C., acetic acid (1.5 ml, 25 mmol) was added, and the mixture concentrated to 20 ml. Hexane and water were added, and the hexane solution was evaporated to leave a brown oil which was chromatographed on silica with 10% ether in CHCl3, providing 6.1 g (81% yield) of N,N'-bis(t-butoxycarbonyl)-2-(trifluoromethyl)phenylhydrazine as a brown gum. This material was dissolved in 200 ml isopropanol, and hydrogen chloride gas was passed into the solution resulting in a weight gain of 8 g. The solution was stirred at 50° C. for 30 minutes, then evaporated to dryness. The residue was treated with ether, and the solids collected by filtration and dried in vacuo, providing 2.7 g (79% yield) 2-(trifluoromethyl)phenylhydrazine hydrochloride as a white powder, mp 241°-242° C.

reactant | 2-Bromobenzotrifluoride | 20 mmol, 4.5 g | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
reactant | magnesium | 22 mmol, 0.54 g | [Mg] | Mg
reactant | di-t-butyl azodicarboxylate | 20 mmol, 4.6 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | acetic acid | 25 mmol, 1.5 ml | C(C)(=O)O | C2H4O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N,N'-bis(t-butoxycarbonyl)-2-(trifluoromethyl)phenylhydrazine | 6.1 g, 81% yield | C(C)(C)(C)OC(=O)N(NC(=O)OC(C)(C)C)C1=C(C=CC=C1)C(F)(F)F | C17H23F3N2O4
